US05612288
220.93 g of isopropyl mercaptan are added dropwise at a temperature of from 0° to -5° C. to a mixture of 388.6 g of potassium carbonate and 301 g of 2,3-difluoropyridine in 4300 ml of dimethylformamide. After stirring for 20 minutes, the temperature of the reaction mixture is allowed to rise slowly to room temperature and is stirred for a further 30 minutes. The reaction mixture is then added to an ice-water/ethyl acetate mixture, the phases are washed four times with ethyl acetate and ice-water and then dried over sodium sulfate. After filtering and concentrating by evaporation, the resulting crude product (510 g) is purified by column chromatography (ethyl acetated hexane 1:9) to give 327.3 g of 3-fluoro-2-isopropylthiopyridine in the form of an oil.

reactant | isopropyl mercaptan | 220.93 g | C(C)(C)S | C3H8S
reactant | potassium carbonate | 388.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-difluoropyridine | 301 g | FC1=NC=CC=C1F | C5H3F2N
solvent | dimethylformamide | 4300 ml | CN(C=O)C | C3H7NO
product | 3-fluoro-2-isopropylthiopyridine | 327.3 g | FC=1C(=NC=CC1)SC(C)C | C8H10FNS
